US06642232B2
Synthesis of 2(R)-pyrrolidin-1-ylmethylpyrrolidine
2-(R)-Prolylpyrrolidine (1.2 g, 7.1 mmol) was dissolved in THF (10 ml). The reaction mixture was cooled to 0° C. and BH3, 1M in THF (10 ml, 10 mmol) was dropwise at 0 C. The reaction mixture was refluxed for 16 h, 3 M HCl (4.7 ml). 2 M NaOH solution was added until pH 10 was reached. The product was extracted with 5% MeOH in CH2Cl2 (three times). The organic layers were dried over Na2SO4 and the solvent was removed to provide the title compound as a slightly yellow liquid (73%), which was used without further purification for the next step.

reactant | 2-(R)-Prolylpyrrolidine | 7.1 mmol, 1.2 g | N1[C@H](C(=O)[C@@H]2NCCC2)CCC1 | C9H16N2O
reactant | HCl | 3 M, 4.7 ml | Cl | ClH
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 mmol, 10 ml | C1CCOC1 | C4H8O
product | 2(R)-pyrrolidin-1-ylmethylpyrrolidine | N1(CCCC1)C[C@@H]1NCCC1 | C9H18N2
